US04612317
Methyl (1S, 3S)-3-hydroxymethyl-1-methyl-1,2,3,4-tetrahydro-β-carboline-2-carbodithioate:
To a mixture of (1S, 3S)-3-hydroxymethyl-1-methyl-1,2,3,4-tetrahydro-β-carboline (30.5 g), triethylamine (28.54 g), ethanol (800 ml) and water (180 ml) is added CS2 (21.47 g), and the mixture is stirred at room temperature for 30 minutes, and thereto is added dropwise methyl iodide (40.04 g). The mixture is stirred at the same temperature for 2 hours and then distilled under reduced pressure to remove the solvent. The residue is dissolved in ethyl acetate, and the solution is washed with water, 5% HCl and water, dried over sodium sulfate and distilled to remove the solvent. The residue is dissolved in ethanol (100 ml), and the solution is added dropwise to water (1.5 liter). The precipitated crystals are collected by filtration and dried to give the title compound (37 g, 86%) as white powder, [α]D20 +209.1° (c=1.0, methanol).

reactant | (1S, 3S)-3-hydroxymethyl-1-methyl-1,2,3,4-tetrahydro-β-carboline | 30.5 g | OC[C@H]1N[C@H](C=2NC3=CC=CC=C3C2C1)C | C13H16N2O
reactant | triethylamine | 28.54 g | C(C)N(CC)CC | C6H15N
reactant | ethanol | 800 ml | C(C)O | C2H6O
reactant | methyl iodide | 40.04 g | CI | CH3I
reactant | CS2 | 21.47 g | C(=S)=S | CS2
solvent | water | 180 ml | O | H2O
product | Methyl (1S, 3S)-3-hydroxymethyl-1-methyl-1,2,3,4-tetrahydro-β-carboline-2-carbodithioate | 37 g, 86% | OC[C@H]1N([C@H](C=2NC3=CC=CC=C3C2C1)C)C(=S)SC | C15H18N2OS2
